US07838675B2
N-[6-Methoxy-2-[(2-phenylethyl)thio]pyrimidin-4-yl]azetidine-1-sulfonamide
A solution of N-[(4-methoxyphenyl)methyl]-N-[6-methoxy-2-[(2-phenylethyl)thio]pyrimidin-4-yl]azetidine-1-sulfonamide (the product of step iii, 0.17 g) in DCM (1 ml) and TFA (2 ml) was stirred at room temperature for 18 h. The solvent was evaporated under reduced pressure. The residue was recrystallised from EtOAc and iso-hexane to give the title product as a white solid. Yield: 50 mg.

reactant | N-[(4-methoxyphenyl)methyl]-N-[6-methoxy-2-[(2-phenylethyl)thio]pyrimidin-4-yl]azetidine-1-sulfonamide | COC1=CC=C(C=C1)CN(S(=O)(=O)N1CCC1)C1=NC(=NC(=C1)OC)SCCC1=CC=CC=C1 | C24H28N4O4S2
reactant | TFA | 2 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
product | N-[6-Methoxy-2-[(2-phenylethyl)thio]pyrimidin-4-yl]azetidine-1-sulfonamide | COC1=CC(=NC(=N1)SCCC1=CC=CC=C1)NS(=O)(=O)N1CCC1 | C16H20N4O3S2
